US07897593B2
Benzyl 1,5-dioxa-9-azaspiro[5.5]undecane-9-carboxylate.
To a solution of 1,5-dioxa-9-aza spiro[5.5]undecane (15.0 g, 95.4 mmol) and triethylamine (17.6 mL, 126 mmol) in THF (140 mL) cooled to 0° C. was added dropwise a solution of benzyl chloroformate (14 mL, 97.5 mmol) dissolved in THF (30 mL). The resulting mixture was stirred at room temp for 18 h. After diluting with EtOAc, the mixture was washed with water and brine and dried (Na2SO4). Concentration gave yellow oil that was purified by flash chromatography eluting with 20%-50% EtOAc/hexane to give the title compound as colorless oil (18.9 g, 68% yield). 1H NMR (300 MHz, CDCl3) δ: 7.36-7.27 (5H, m), 5.09 (2H, s), 3.89-3.85 (4H, m), 3.51-3.47 (4H, m), 1.87-1.66 (6H, m). LCMS (M+H) calcd for C16H22NO4: 292.15; found: 292.00.

reactant | 1,5-dioxa-9-aza spiro[5.5]undecane | 95.4 mmol, 15.0 g | O1CCCOC12CCNCC2 | C8H15NO2
reactant | triethylamine | 126 mmol, 17.6 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 97.5 mmol, 14 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Benzyl 1,5-dioxa-9-azaspiro[5.5]undecane-9-carboxylate | 18.9 g, 68% yield | O1CCCOC12CCN(CC2)C(=O)OCC2=CC=CC=C2 | C16H21NO4
